US08426639B2
In a Parr pressure reactor, a stirred suspension of trans,trans dimethyl muconate (6.1 g, 36 mmol) in dimethyldipropyleneglycol (120 ml, 0.3 M) is heated under vinyl chloride pressure (18 psi (0.124 MPa) at 23° C.) to 165° C. for 48 hours. After cooling to room temperature, the reaction mixture is diluted using the same solvent to 200 ml in a volumetric flask, transferred into a round-bottom flask equipped with a magnetic stirring bar, and Pd/C catalyst is added (360 mg of Johnson-Matthey 5 percent Pd/C #6, 0.2 mol percent) at room temperature. The flask is equipped with a reflux condenser, fritted gas dispersion tube, and internal T probe. Under N2 flow (190 ml/min) and stirring (190 rpm) the mixture is heated to reflux while samples are taken at appropriate intervals (t=0.0, 0.25, 0.5, 1.0, 2.0, 4.0, 8.0 h) to monitor the progress of the reactions occurring. After 8 hour reaction time, dimethyl chloro-terephthalate is present. Some material also undergoes C—Cl bond cleavage and dimethyl 2-chloro-cyclohexane-1,4-dicarboxylate is also formed.

reactant | trans,trans dimethyl muconate | 36 mmol, 6.1 g | C(\C=C\C=C\C(=O)OC)(=O)OC | C8H10O4
reactant | dimethyl chloro-terephthalate | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H9ClO4
solvent | dimethyldipropyleneglycol | 0.3 M, 120 ml | CC(C(COC(C)CO)O)C | C8H18O3
catalyst | Pd/C | [Pd] | Pd
product | dimethyl 2-chloro-cyclohexane-1,4-dicarboxylate | ClC1C(CCC(C1)C(=O)OC)C(=O)OC | C10H15ClO4
